US07547756B2
Monomer Synthesis—2-(3′,5′-Dihydroxyphenyl)benzimidazole
3,5-Dihydroxybenzoic acid (21.4 g, 0.14 mol) and o-phenylenediamine (10 g, 0.093 mol) were refluxed in 4M hydrochloric acid (200 mL) at 135° C. for 24 hours under nitrogen. The mixture was cooled to room temperature and then neutralized to pH 6 with sodium hydroxide and then to pH 8 with sodium bicarbonate. The precipitated tan-colored product was isolated by filtration and recrystallized from methanol/water (1:4) to yield tan-colored needles (6.2 g). 1H NMR (DMSO-d6):δ 6.36 (1H, t), 7.04 (2H, d), 7.19 (2H, m), 7.47 (1H, d), 7.62 (1H, d), 9.56 (O—H,2H, s), 12.71 (N—H, 1H, s).

reactant | 3,5-Dihydroxybenzoic acid | 0.14 mol, 21.4 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | o-phenylenediamine | 0.093 mol, 10 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 4M, 200 mL | Cl | ClH
product | 2-(3′,5′-Dihydroxyphenyl)benzimidazole | 6.2 g | OC=1C=C(C=C(C1)O)C=1NC2=C(N1)C=CC=C2 | C13H10N2O2
